US05459151
4-(3-cyclopentylmethyl-4-methoxyphenyl)piperidine-1-carboxylic acid amide
To a stirred solution of 4-(3-cyclopentylmethyl-4-methoxyphenyl)piperidine (1.8 mmol, 0.500 g) in acetic acid (5 mL) was added a solution of sodium cyanate (10.8 mmol, 0.702 g) in water (15 mL) dropwise over 20 minutes at room temperature. The resulting solution was stirred at room temperature overnight, after which the acetic acid was removed in vacuo. The residue was partitioned between EtOAc (200 mL) and H2O (200 mL). The aqueous phase was extracted with EtOAc (1×200 mL), the combined organics dried (Na2SO4), concentrated in vacuo and purified by flash chromatography (SiO2 ; EtOAc) to give the title compound as a white solid, mp=168°-169° C. (0.5 mmol, 1.054 g, 27%).

reactant | 4-(3-cyclopentylmethyl-4-methoxyphenyl)piperidine | 1.8 mmol, 0.500 g | C1(CCCC1)CC=1C=C(C=CC1OC)C1CCNCC1 | C18H27NO
reactant | sodium cyanate | 10.8 mmol, 0.702 g | [O-]C#N.[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | 15 mL | O | H2O
product | 4-(3-cyclopentylmethyl-4-methoxyphenyl)piperidine-1-carboxylic acid amide | C1(CCCC1)CC=1C=C(C=CC1OC)C1CCN(CC1)C(=O)N | C19H28N2O2
